US05977101
a) tert-Butyl 3-[[bis-(t-butoxycarbonyl)]amino]methyl-4-nitrobenzoate
Di-tert-butyliminodicarboxylate (4.35 g, 20.0 mmol) was added to a suspension of sodium hydride (0.48 g, 20.0 mmol) in anhydrous DMF (30 mL) at RT. After 30 minutes, a solution of t-butyl 3-bromomethyl-4-nitrobenzoate (6.3 g, 20 mmol) in DMF (15 mL) was added rapidly dropwise. After 16 h, the solvent was evaporated and the residue partitioned between EtOAc (200 mL) and water (40 mL). The organic layer was extracted with water (3×50 mL) and brine (40 mL) and dried finally over Na2SO4. Removal of solvent gave the crude product which was purified on flash chromatography (15:85; EtOAc:Hexane) to give the title compound (81.5%): MS (ES) m/e 453 (M+H)+ ; 1H NMR (400 MHz, CDCl3) δ 7.97-8.10 (m, 3H), 5.16 (s, 2H), 1.62 (s, 9H), 1.49 (s, 18H).

reactant | Di-tert-butyliminodicarboxylate | 20.0 mmol, 4.35 g | CC(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | sodium hydride | 20.0 mmol, 0.48 g | [H-].[Na+]
reactant | t-butyl 3-bromomethyl-4-nitrobenzoate | 20 mmol, 6.3 g | BrCC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C12H14BrNO4
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-[[bis-(t-butoxycarbonyl)]amino]methyl-4-nitrobenzoate | 81.5% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C22H32N2O8
